US08859580B2
2-Benzyl-1,4,6-trimethyl-1,2-dihydro-pyridine
PhCH2MgCl (1 M in Et2O, 180 mL) is added dropwise to a solution of 1,2,4-trimethyl-pyridinium iodide (24.3 g) in Et2O(90 mL) chilled in an ice bath. After stirring in the ice bath for 2 h, the solution is poured into a mixture of 72% aqueous HClO4 (40 mL) and crushed ice (ca. 900 mL). The resulting mixture is stirred for 1 h and the precipitate formed is separated by filtration. The precipitate is washed with methanol and dried to afford the HClO4 salt of the title compound.

reactant | PhCH2MgCl | 1 M, 180 mL | C1(=CC=CC=C1)C[Mg]Cl
reactant | 1,2,4-trimethyl-pyridinium iodide | 24.3 g | [I-].C[N+]1=C(C=C(C=C1)C)C
solvent | Et2O | 90 mL | CCOCC | C4H10O
product | 2-Benzyl-1,4,6-trimethyl-1,2-dihydro-pyridine | C(C1=CC=CC=C1)C1N(C(=CC(=C1)C)C)C | C15H19N
